US08530460B2
2-Bromo-5-ethoxy-pyridine
2.51 g (22.99 mmol) 1-bromoethane and 1.99 g (14.37 mmol) K2CO3 are added to a mixture of 1.0 g (5.75 mmol) 2-bromo-5-hydroxypyridine in 100 mL ACN. The mixture is stirred at reflux over night. Then the reaction mixture is poured onto water and extracted with TBME. The organic layer is dried with Na2SO4 and the solvent is removed under vacuo. The residue is purified by column chromatography (silica gel, PE/EtOAC 1/1).

reactant | 1-bromoethane | 22.99 mmol, 2.51 g | BrCC | C2H5Br
reactant | K2CO3 | 14.37 mmol, 1.99 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-5-hydroxypyridine | 5.75 mmol, 1.0 g | BrC1=NC=C(C=C1)O | C5H4BrNO
solvent | ACN | 100 mL | C(C)#N | C2H3N
product | 2-Bromo-5-ethoxy-pyridine | BrC1=NC=C(C=C1)OCC | C7H8BrNO
